US09024041B2
Intermediate G1: (4-Aminonaphthalen-1-yl)(2-aminopyridin-4-yl)methanone
To a solution of (4-(tert-butoxycarbonyl)aminonaphthalen-1-yl)(2-(tert-butoxycarbonyl)amino pyridin-4-yl)methanone (378 mg, 0.815 mmol) in DCM (20 mL) under N2 at 0° C. was added TFA (4.0 mL, 50 mmol). After 30 min at 0° C. the reaction mixture was warmed to RT for 4.5 hr and was then evaporated in vacuo. The residue was subjected to purification by SCX capture and release to afford the title compound, Intermediate G1, as a yellow solid (200 mg, 93%); Rt 1.01 min (Method 2); m/z 264 (M+H)+ (ES+).

reactant | (4-(tert-butoxycarbonyl)aminonaphthalen-1-yl)(2-(tert-butoxycarbonyl)amino pyridin-4-yl)methanone | 0.815 mmol, 378 mg | C(C)(C)(C)OC(=O)NC1=CC=C(C2=CC=CC=C12)C(=O)C1=CC(=NC=C1)NC(=O)OC(C)(C)C | C26H29N3O5
reactant | TFA | 50 mmol, 4.0 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | (4-Aminonaphthalen-1-yl)(2-aminopyridin-4-yl)methanone | NC1=CC=C(C2=CC=CC=C12)C(=O)C1=CC(=NC=C1)N | C16H13N3O
